US06337351B1
(4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-amino-4-methylphenyl)-4-penten-2-amine
A mixture of 4-bromo-2-aminotoluene (1.55 g, 7.17 mmol), N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine (1.71 g, 8.60 mmol ), prepared as previously described, palladium(II) acetate (16 mg, 0.07 mmol), tri-o-tolylphosphine (87 mg, 0.28 mmol), triethylamine (4.5 mL, 32.28 mmol), and acetonitrile (10 mL) was heated in a sealed glass tube at 140° C. for 14 h. The reaction mixture was cooled to ambient temperature, diluted with water (40 mL) and extracted with chloroform (4×75 mL). The combined extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator. The crude product was purified by column chromatography on neutral alumina eluting with ethyl acetate-hexane (2:3 to 4:1) to yield 1.57 g (72.3%) of a brown liquid.

reactant | 4-bromo-2-aminotoluene | 7.17 mmol, 1.55 g | BrC1=CC(=C(C=C1)C)N | C7H8BrN
reactant | N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | 8.60 mmol, 1.71 g | CN(C(C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
reactant | triethylamine | 32.28 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 40 mL | O | H2O
catalyst | palladium(II) acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.28 mmol, 87 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | (4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-amino-4-methylphenyl)-4-penten-2-amine | 1.57 g, 72.3% | CN(C(C)C\C=C\C1=CC(=C(C=C1)C)N)C(=O)OC(C)(C)C | C18H28N2O2
